Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:12]([H:13])[H:14].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-5.24136692632
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:3]([H:4])([H:5])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][C:2][C:7]([H:6])([H:8])[H:9],4.86472390604
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]#[C:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:3],4.100287628859999
[H:1][C:2]/[C:3]([H:4])=[C:5](/[O:6][H:7])[O:8][C:9]([H:10])[H:11]>>[C:3]([H:4])=[C:5]([O:6][H:7])[O:8][C:9]([H:10])[H:11].[H:1][C:2],6.64898897488
[H:12].[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-2.07533971497
[H:6].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:7]/[O:8][C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11],-2.43285354753
[O:1]=[C:2]=[C:3]([C:4]([H:5])=[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:5].[O:1]=[C:2]=[C:3]([C:4]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11],1.96902766465
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3](=[C:4]([H:5])[H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2],6.14432414369
[H:1][C:2][O:3][C:4]([H:5])=[C:7]=[C:8]([H:9])[H:10].[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10],-1.7837084988299998
[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3][C:4][C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:5],4.88458182078
[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16],-3.9390365827900022
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:8]([C:9]([H:10])([H:11])[H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20].[H:7]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20],-4.41572898681
[H:1][O:2][C:3][C:6]([C:4][H:5])([H:7])[H:8]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]1([H:7])[H:8],-4.36602674
[H:1][C:2][C:3]([H:4])=[C:5][H:6]>>[C:3]([H:4])#[C:5][H:6].[H:1][C:2],3.17552477024
[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7](/[H:8])[O:10][C:11]([H:12])([H:13])[H:14].[H:9]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-1.76596697403
[C:4]#[C:5][H:6].[O:1]=[C:2]([H:3])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][C@@:2]([H:3])([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.0593128677
[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3],5.30491413999
[C:6]([H:7])#[C:8][O:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:9][C:10]([H:11])([H:12])[H:13],-1.48515585834
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C:3]#[C:4][O:6][C:7]([H:8])([H:9])[H:10].[H:5],2.58164878218
[H:1][O:2]/[C:3](=[C:4]\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.6937030234
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]1([C:7]([H:8])([H:9])[H:10])[C:11][C:12]1([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])=[C:11]=[C:12]([H:13])[H:14],-2.90750861
[C:1]#[C:2][C@@:3]([H:4])([O:5])[C:7]([H:8])([H:9])[H:10].[H:6]>>[C:1]#[C:2][C@@:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[H:10],-4.63339024965
[C:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:1][C:2]1([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-0.1606107833599999
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3]([C:4]([H:5])([H:6])[H:7])#[C:8][H:9].[H:1][C:2]([H:10])[H:11],1.43091500125
[H:1][O:2][C:3]/[C:4](=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2]=[C:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],1.67519206341
[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][O:3]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.99986630809
[C:1]#[C:2][O:3][H:4].[C:5]([H:6])=[C:7]([H:8])[O:9][H:10]>>[C:1]=[C:2]([O:3][H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-3.69081237092
[O:1]=[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1],8.13847125526
